US09029549B2
Ethyl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-3-yl)-1,3-thiazole-4-carboxylate (IV-3)
3-[4-(Ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride (VI-2, 5.32 g) is reacted analogously to Example IV-1 with [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid (4.00 g). This gives, after chromatographic purification, ethyl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-3-yl)-1,3-thiazole-4-carboxylate (5.7 g, 69%).

reactant | 3-[4-(Ethoxycarbonyl)-1,3-thiazol-2-yl]piperidinium chloride | 5.32 g | [Cl-].C(C)OC(=O)C=1N=C(SC1)C1C[NH2+]CCC1
reactant | [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 4.00 g | CC1=CC(=NN1CC(=O)O)C(F)(F)F | C7H7F3N2O2
product | Ethyl 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-3-yl)-1,3-thiazole-4-carboxylate | CC1=CC(=NN1CC(=O)N1CC(CCC1)C=1SC=C(N1)C(=O)OCC)C(F)(F)F | C18H21F3N4O3S
